US07449477B2
Add di-tert-butyldicarbonate to 7-bromo-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide, (0.641 g, 1.30 mmol) in 10 ml CH2Cl2 at RT. After 1 h, concentrate the reaction mixture, then chromatograph on silica gel with a gradient of 0-10% MeOH in CH2Cl2 to give 0.705 g of [2-(7-bromo-isoquinoline-5-sulfonylamino)-ethyl]-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester, as a white foam in 91% yield. ES Positive Ion MS [M+H]+ ions observed: m/z 593 (79Br) and m/z 595 (81Br).

reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-bromo-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide | 1.30 mmol, 0.641 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)Br | C20H21BrN4O4S
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | [2-(7-bromo-isoquinoline-5-sulfonylamino)-ethyl]-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester | 0.705 g, 91% yield | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)[N+](=O)[O-])CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)Br)=O | C25H29BrN4O6S
